US05612340
100 mg (0.2 mmol) of N-[3-(1,1,2,2-tetrafluoro-ethoxy)-phenyl]-4-(2-carboxy-4-pyridyl)-2-pyrimidineamine, 73 mg (0.38 mmol) of N-ethyl-N'-(3-dimethylaminopropyl)-carbodiimide hydrochloride and 44 mg (0.38 mmol) of N-hydroxysuccinimide are dissolved in 3 ml of dimethyflormamide and stirred for 2.5 h at RT. The reaction mixture is then added dropwise at 0° over a period of 30 minutes to a solution of 0.75 ml (12.3 mmol) of ethanolamine in 2 ml of DMF. After stirring for 14 h at RT, the reaction mixture is poured into 50 ml of ethyl acetate and extracted with aqueous sodium chloride solution (30 ml) and pH 7 buffer (30 ml), and the organic phase is dried (sodium sulfate) and concentrated. Crystallisation from THF/diethyl ether gives N-[3-(1,1,2,2-tetrafluoro-ethoxy)-phenyl]-4-[2-(2-hydroxy-ethyl-aminocarbonyl)-4-pyridyl]-2-pyrimidineamine; m.p. 159°, FAB-MS: 452 (M+ +H).

reactant | N-[3-(1,1,2,2-tetrafluoro-ethoxy)-phenyl]-4-(2-carboxy-4-pyridyl)-2-pyrimidineamine | 0.2 mmol, 100 mg | FC(C(F)F)(OC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)C(=O)O)F | C18H12F4N4O3
reactant | N-ethyl-N'-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 0.38 mmol, 73 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | N-hydroxysuccinimide | 0.38 mmol, 44 mg | ON1C(CCC1=O)=O | C4H5NO3
reactant | ethanolamine | 12.3 mmol, 0.75 ml | C(O)CN | C2H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | N-[3-(1,1,2,2-tetrafluoro-ethoxy)-phenyl]-4-[2-(2-hydroxy-ethyl-aminocarbonyl)-4-pyridyl]-2-pyrimidineamine | FC(C(F)F)(OC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)C(=O)NCCO)F | C20H17F4N5O3
